US07276516B2
4-(3-Phenyl-indole-1-sulfonyl)-benzoic acid
Add to a 2 L 3-neck flask equipped with reflux condenser, thermometer and nitrogen inlet, 4-(3-iodo-indole-1-sulfonyl)-benzoic acid methyl ester (0.1 mol, 44.1 g), phenylboronic acid (0.12 mol, 22.35 g), 1,1-bis(diphenylphosphino)ferrocene dichloropalladium (0.0025 mol, 2.04 g), 2M sodium carbonate (140 ml) and 0.5 L THF. Heat the mixture to reflux under nitrogen for 2 hours. Remove THF under vacuum, and add MTBE (500 ml) and DI water (200 ml) to the residue. Filter the solution through a pad of Celite, and wash with MTBE (500 ml). Separate the organic layer and concentrate under vacuum to give a brown solid. Dissolve the solid in THF (250 ml). Add to this solution 5N NaOH (35 ml) dropwise over a 30 minute period. Stir the reaction at ambient temperature for 3 hours, and quench with DI water (250 ml) and MTBE (250 ml). Separate the water layer and back extract the organic layer with DI water (250 ml). Combine the aqueous layers and wash with MTBE (500 ml). Stir the aqueous layer at ambient temperature and adjust the pH is to 1 with concentrated HCl. Stir the slurry at ambient temperature for 2 hours, filter and wash with DI water (500 ml). Dry the off-white, gray solid in vacuum oven at 65° C. for 16 hours to obtain 25.44 g. 1H NMR (DMSO) 8.2(d, 2H), 8.1(m, 3H), 7.9(d, 1H), 7.7(d, 2H), 7.4(m, 5H). MS (ES−)=376.2 (M−1). Anal. Calcd. For C21H15NO4S: C, 66.8308; H, 4.0060; N, 3.7112. found C, 66.54; H, 4.07; N, 3.20.

reactant | 4-(3-iodo-indole-1-sulfonyl)-benzoic acid methyl ester | 0.1 mol, 44.1 g | COC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)I)=O | C16H12INO4S
reactant | phenylboronic acid | 0.12 mol, 22.35 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M, 140 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaOH | 35 ml | [OH-].[Na+]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5 L | C1CCOC1 | C4H8O
solvent | DI water | 200 ml | O | H2O
solvent | MTBE | 500 ml | CC(C)(C)OC | C5H12O
product | 4-(3-Phenyl-indole-1-sulfonyl)-benzoic acid | C1(=CC=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C21H15NO4S
